US08202537B2
The Methylphenidate Resin Complex was prepared by first dissolving 500 g of methylphenidate HCl in 8 liters of purified water, and then slowly adding 1,306 g of AMBERLITE™ IRP-69 resin with continuous mixing. The dispersion was mixed for 4 hours and upon completion, allowed to settle before decanting the supernatant. The slurring/decanting process was repeated twice with sufficient amounts of purified water. The wet resin complex was then dried in a VWR™ convection oven maintained at 50° C. until moisture content was about 20-30%. EUDRAGIT™ NE-30D of 467 g was then slowly added to the wet resin complex in a Hobart type mixer (Kitchen Aid) to form a uniform mass. The wet mass was then passed through a 10 mesh screen and again dried at 50° C. in a VWR™ convection oven to the moisture content around 4-6%. The dried granules were then milled through a 40 mesh screen using CO-MIL™ brand mill.

reactant | methylphenidate HCl | 500 g | COC(=O)C(C=1C=CC=CC1)C2CCCCN2.Cl
solvent | water | 8 liters | O | H2O
product | Methylphenidate | COC(=O)C(C=1C=CC=CC1)C2CCCCN2 | C14H19NO2
